datasets/10k__Tet_Int.csv
SMILES Labelled
"[O:10]([K])C(C)C(O)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[O+:10]([K])C(C)C(O)C1[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)[H])C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH]CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)/C([H])=C([H])\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10](CC)C(C=CC=C3)=C3C2C)OCC>>[NH:10](CC)C1=C(C(C)[C:20](OCC)=[O:21])C=CC=C1 21=20;20,10=10"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)[H])[H]>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)[H])[H] 21=20;20,10=10"
"[H][S:10][H].C[O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S]C)[O]C 10=20;20,21=21"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C([H])C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C([H])C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[NH:10][H].[H][NH+:21]=[C:20]([O][H])[NH]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O][H])[NH]CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1CC)([O-:10])[O:21]CC)CC>>CCCCCCC1C(O[C:20](=[O:10])N1CC)CC.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)[H])CC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CC)CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([NH]C)[NH]CC.[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"CC[S:10][H].C[O+:21]=[C:20]([S]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([S]CC)[S]C7=CC=CC=C7 10=20;20,21=21"
"[O:21]=[C:20](OC)OC1=CC=CC=C1.[O-:10]C>>C[O:10][C:20]([O-:21])(OC)OC1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O]C.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]C 10=20;20,21=21"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[O:21])O)[H]>>[O-:21][CH:20]2(OC)C3=C(C(C([O:10]2)[H])O)C=CC=C3  10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CC>>CC1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)[H] 10=20;20,21=21"
